US07507736B2
4-[5-(1-Isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester
The title compound was prepared in analogy to example 40b), from 5-[[1-(1-methylethyl)-4-piperidinyl]oxy]-1H-Indole-2-carboxylic acid and 1-(tert-butoxycarbonyl)piperazine. Light-yellow solid. MS (m/z): 471.1 (M+H)+.

reactant | 5-[[1-(1-methylethyl)-4-piperidinyl]oxy]-1H-Indole-2-carboxylic acid | CC(C)N1CCC(CC1)OC=1C=C2C=C(NC2=CC1)C(=O)O | C17H22N2O3
reactant | 1-(tert-butoxycarbonyl)piperazine | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
product | 4-[5-(1-Isopropyl-piperidin-4-yloxy)-1H-indole-2-carbonyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C=1NC2=CC=C(C=C2C1)OC1CCN(CC1)C(C)C | C26H38N4O4
